US07342115B2
A mixture of 3-bromomethyl-6-(2,6-diethyl-phenyl)-4-methoxy-pyridine-2-carbonitrile (40 mg), K2CO3 (50 mg) and (S)-methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine (40 mg) in CH3CN (2 mL) is stirred at room temperature overnight. Hexane (5 mL) and water (5 mL) are added to the mixture. The organic layer is separated, washed, once with brine, dried (Na2SO4), and concentrated. The crude is purified by PTLC (4:1 hexane/EtOAc) to give (S)-6-(2,6-diethyl-phenyl)-4-methoxy-3-{[methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amino]-methyl}-pyridine-2-carbonitrile. 1H NMR (CDCl3) 7.72 (d, 1H), 7.35 (t, 1H), 7.07-7.17 (m, 5H), 6.92 (s, 1H), 4.05 (m, 1H), 3.97 (d, 2H), 3.89 (s, 3H), 2.75 (m, 2H), 2.32 (m, 4H), 2.22 (s, 3H), 2.09 (m, 2H), 2.70-2.95 (m, 2H), 1.08 (t, 6H).

reactant | 3-bromomethyl-6-(2,6-diethyl-phenyl)-4-methoxy-pyridine-2-carbonitrile | 40 mg | BrCC=1C(=NC(=CC1OC)C1=C(C=CC=C1CC)CC)C#N | C18H19BrN2O
reactant | K2CO3 | 50 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | (S)-methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine | 40 mg | CN[C@H]1CCCC2=CC=CC=C12 | C11H15N
reactant | Hexane | 5 mL | CCCCCC | C6H14
solvent | CH3CN | 2 mL | CC#N | C2H3N
solvent | water | 5 mL | O | H2O
product | (S)-6-(2,6-diethyl-phenyl)-4-methoxy-3-{[methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amino]-methyl}-pyridine-2-carbonitrile | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C(=N1)C#N)CN([C@H]1CCCC2=CC=CC=C12)C)OC | C29H33N3O
